US05091514
(Succinimidylbenzoylmercaptoacetylglycylglycylglycine)
In a 50 ml round bottom flask, 0.37 g (1 mmole) of benzoylmercaptoacetylglycylglycylglycine and 0.126 g (1.1 mmole) of N-hydroxy succinimide are dissolved in approximately 25 mL of tetrahydrofuran and cooled to 5°-10° C. in an ice bath. To this solution, 0.23 g (1.1 mmole) of N,N'-dicyclohexylcarbodiimide is added. The solution is allowed to warm to room temperature and is stirred for 48 hours and the course of the reaction followed by TLC. The precipitate is removed by filtering; the filtered solution is evaporated to dryness under vacuum. The residue is redissolved in 50-60 mL of dichloromethane; this solution is filtered and evaporated to dryness under vacuum. The residue is redissolved in 5-6 mL ethanol with warming and allowed to crystallize for 3-4 hours. The crystals of product succinimidyl-MAGGG are recovered by filtration.

reactant | benzoylmercaptoacetylglycylglycylglycine | 1 mmole, 0.37 g | C(C1=CC=CC=C1)(=O)SCC(=O)NCC(=O)NCC(=O)NCC(=O)O | C15H17N3O6S
reactant | N-hydroxy succinimide | 1.1 mmole, 0.126 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 1.1 mmole, 0.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | approximately 25 mL | O1CCCC1 | C4H8O
product | Succinimidylbenzoylmercaptoacetylglycylglycylglycine | C1(CCC(N1N(CC(=O)NCC(=O)NCC(=O)O)C(CSC(C1=CC=CC=C1)=O)=O)=O)=O | C19H20N4O8S
